T1 (net112 net125 net125 0) nfet L=8.88E-6 W=4.31E-6
T2 (vdd! net11 net11 0) pfet L=3.82E-6 W=6.99E-6
C3 (net96 net71) C=4.9E-14
R4 (vdd! net5) R=0.5E5
T5 (net14 net121 net121 0) nfet L=7.66E-6 W=7.38E-6
C6 (net100 net46) C=3.1E-10
R7 (net108 net120) R=6.7E3
C8 (net121 net86) C=3.8E-9
C9 (net59 net98) C=8.2E-7
C10 (net27 net12) C=9.9E-5
C11 (net23 net79) C=6.1E-7
T12 (net21 net81 net81 0) pfet L=7.21E-6 W=5.01E-6
T13 (net22 net112 net112 0) pfet L=9.89E-6 W=4.33E-6
R14 (0 net7) R=5.7E5
C15 (net68 net107) C=3.4E-7
C16 (net89 0) C=1.8E-10
T17 (net8 net103 net103 0) nfet L=4.92E-6 W=0.12E-6
C18 (net61 net84) C=5.6E-9
C19 (net99 net9) C=3.8E-8
T20 (net67 vdd! vdd! 0) nfet L=4.05E-6 W=4.43E-6
R21 (net55 net90) R=4.6E1
R22 (net120 net75) R=8.4E2
C23 (net82 net53) C=6.4E-6
C24 (net83 net45) C=2.7E-8
R25 (vdd! net60) R=7.0E1
C26 (net70 vdd!) C=6.8E-14
T27 (net3 net112 net112 0) pfet L=1.88E-6 W=8.49E-6
T28 (net119 net91 net91 0) pfet L=9.18E-6 W=2.78E-6
R29 (net122 net121) R=7.4E4
R30 (net12 net8) R=1.4E6
T31 (net55 0 0 0) nfet L=9.41E-6 W=1.10E-6
T32 (net58 vdd! vdd! 0) nfet L=6.65E-6 W=8.76E-6
R33 (net25 net61) R=6.0E5
T34 (net88 net46 net46 0) nfet L=1.25E-6 W=5.72E-6
C35 (vdd! net61) C=9.7E-11
C36 (net2 net125) C=6.4E-7
T37 (net45 net21 net21 0) pfet L=5.66E-6 W=2.33E-6
C38 (net129 net11) C=7.7E-10
R39 (net127 net101) R=6.4E3
R40 (net74 0) R=9.5E4
R41 (net79 net125) R=0.9E6
R42 (net1 0) R=5.6E0
T43 (net112 net70 net70 0) pfet L=5.84E-6 W=5.32E-6
R44 (net22 net94) R=3.4E5
T45 (net129 net120 net120 0) nfet L=3.83E-6 W=0.53E-6
T46 (net76 net8 net8 0) pfet L=4.05E-6 W=2.04E-6
T47 (net25 net36 net36 0) pfet L=0.93E-6 W=3.24E-6
T48 (net108 net77 net77 0) pfet L=4.02E-6 W=7.41E-6
T49 (net49 net41 net41 0) nfet L=1.49E-6 W=3.09E-6
R50 (net50 vdd!) R=7.4E6
T51 (net126 vdd! vdd! 0) pfet L=3.67E-6 W=8.92E-6
T52 (net49 vdd! vdd! 0) nfet L=4.46E-6 W=8.36E-6
T53 (0 net115 net115 0) pfet L=2.65E-6 W=8.15E-6
C54 (net122 net106) C=9.3E-9
C55 (vdd! net91) C=8.7E-9
R56 (net115 net121) R=0.7E2
T57 (net31 net52 net52 0) pfet L=4.93E-6 W=0.40E-6
R58 (net110 0) R=9.2E1
R59 (net115 net106) R=0.2E0
R60 (net64 net1) R=9.1E2
C61 (net19 net7) C=4.2E-14
T62 (net109 net10 net10 0) pfet L=2.11E-6 W=9.37E-6
T63 (net16 net103 net103 0) nfet L=1.94E-6 W=4.50E-6
R64 (net26 net15) R=1.1E1
R65 (net79 net55) R=0.9E6
T66 (net18 net12 net12 0) pfet L=0.48E-6 W=3.12E-6
T67 (net103 net6 net6 0) nfet L=9.06E-6 W=0.60E-6
C68 (net78 net7) C=4.2E-14
C69 (net61 net68) C=8.2E-5
T70 (net20 net54 net54 0) nfet L=7.66E-6 W=0.84E-6
T71 (0 net117 net117 0) nfet L=5.85E-6 W=8.75E-6
C72 (net121 net52) C=7.2E-13
R73 (net108 net33) R=9.5E5
C74 (net109 net124) C=7.8E-6
T75 (net16 net103 net103 0) pfet L=8.51E-6 W=7.37E-6
T76 (net85 net56 net56 0) pfet L=6.11E-6 W=2.40E-6
C77 (net79 net64) C=5.1E-12
C78 (net71 net114) C=1.4E-12
C79 (net121 net71) C=6.5E-11
T80 (net65 net90 net90 0) pfet L=2.87E-6 W=2.15E-6
T81 (net108 net38 net38 0) pfet L=9.03E-6 W=8.68E-6
T82 (net126 net58 net58 0) pfet L=3.65E-6 W=0.15E-6
T83 (net36 net39 net39 0) nfet L=4.73E-6 W=0.44E-6
T84 (net63 net41 net41 0) pfet L=4.64E-6 W=7.25E-6
R85 (net84 0) R=7.2E3
R86 (vdd! net28) R=9.7E6
R87 (net111 net113) R=8.6E3
T88 (net125 net29 net29 0) nfet L=4.25E-6 W=3.98E-6
R89 (net73 net69) R=9.3E3
T90 (net3 net38 net38 0) pfet L=5.03E-6 W=0.52E-6
T91 (net44 net15 net15 0) pfet L=0.23E-6 W=6.01E-6
T92 (0 net69 net69 0) nfet L=4.43E-6 W=3.25E-6
T93 (net94 net71 net71 0) pfet L=0.44E-6 W=6.91E-6
C94 (net99 net115) C=2.3E-14
R95 (net29 net36) R=1.2E4
T96 (net72 net40 net40 0) pfet L=2.15E-6 W=3.13E-6
R97 (net45 net73) R=6.5E6
T98 (net58 net80 net80 0) pfet L=8.23E-6 W=4.26E-6
T99 (net44 net38 net38 0) nfet L=6.07E-6 W=7.50E-6
C100 (net110 net116) C=9.1E-7
T101 (vdd! vdd! vdd! 0) pfet L=3.65E-6 W=3.08E-6
C102 (net40 net89) C=2.8E-12
C103 (net20 vdd!) C=1.5E-12
T104 (net80 net117 net117 0) nfet L=5.33E-6 W=5.72E-6
R105 (net41 net34) R=8.3E1
T106 (net33 net115 net115 0) nfet L=1.77E-6 W=6.15E-6
R107 (net42 net109) R=2.9E1
T108 (net43 net129 net129 0) pfet L=1.96E-6 W=2.23E-6
T109 (net99 net88 net88 0) nfet L=6.31E-6 W=7.80E-6
R110 (net40 net74) R=4.4E0
T111 (net95 net127 net127 0) pfet L=4.54E-6 W=6.05E-6
T112 (net79 net77 net77 0) nfet L=4.22E-6 W=8.44E-6
T113 (net75 net80 net80 0) nfet L=5.33E-6 W=8.89E-6
T114 (net71 net118 net118 0) pfet L=6.62E-6 W=5.80E-6
C115 (net53 vdd!) C=7.2E-11
T116 (net39 vdd! vdd! 0) nfet L=4.50E-6 W=2.32E-6
C117 (net42 0) C=4.7E-6
R118 (net121 net52) R=2.0E5
C119 (net69 net49) C=7.8E-8
T120 (net67 net116 net116 0) nfet L=3.60E-6 W=9.68E-6
R121 (net27 net98) R=5.9E1
T122 (net16 vdd! vdd! 0) pfet L=1.76E-6 W=8.53E-6
T123 (vdd! net16 net16 0) nfet L=4.82E-6 W=6.91E-6
C124 (vdd! net32) C=1.7E-10
T125 (net40 net8 net8 0) pfet L=8.74E-6 W=8.07E-6
T126 (net3 net59 net59 0) nfet L=0.57E-6 W=9.38E-6
T127 (net35 net114 net114 0) pfet L=0.89E-6 W=7.08E-6
C128 (net70 net91) C=1.7E-13
T129 (net5 net113 net113 0) pfet L=6.76E-6 W=7.59E-6
T130 (net29 net111 net111 0) nfet L=6.79E-6 W=2.38E-6
T131 (net60 net111 net111 0) nfet L=3.55E-6 W=5.89E-6
T132 (net71 net107 net107 0) nfet L=9.36E-6 W=5.09E-6
T133 (net40 net45 net45 0) pfet L=3.14E-6 W=0.55E-6
T134 (net53 net51 net51 0) nfet L=6.17E-6 W=9.83E-6
T135 (net44 net85 net85 0) pfet L=2.43E-6 W=5.54E-6
C136 (net61 net25) C=7.7E-5
T137 (net110 net97 net97 0) pfet L=9.45E-6 W=8.47E-6
T138 (net104 0 0 0) nfet L=9.46E-6 W=9.10E-6
T139 (net16 vdd! vdd! 0) nfet L=5.72E-6 W=4.78E-6
T140 (net53 0 0 0) pfet L=10.00E-6 W=2.92E-6
T141 (net64 net63 net63 0) nfet L=4.84E-6 W=4.42E-6
C142 (net122 net105) C=7.7E-5
T143 (0 net7 net7 0) nfet L=0.86E-6 W=3.58E-6
C144 (0 net18) C=1.2E-6
C145 (net71 net2) C=3.9E-12
T146 (net24 net64 net64 0) nfet L=7.64E-6 W=0.28E-6
R147 (net21 net80) R=8.0E2
C148 (net90 net113) C=7.1E-6
C149 (0 net64) C=9.2E-12
T150 (net76 net13 net13 0) pfet L=8.63E-6 W=8.93E-6
C151 (net13 net12) C=10.0E-14
C152 (net111 net79) C=8.6E-8
T153 (net41 net128 net128 0) pfet L=8.02E-6 W=5.81E-6
C154 (net17 net95) C=3.7E-8
T155 (net36 net11 net11 0) nfet L=9.24E-6 W=5.85E-6
C156 (net62 net74) C=8.4E-11
T157 (net63 net31 net31 0) nfet L=8.09E-6 W=7.03E-6
R158 (vdd! net30) R=5.9E5
R159 (net56 net66) R=6.3E1
T160 (net121 net98 net98 0) pfet L=5.38E-6 W=7.08E-6
C161 (net23 net85) C=0.6E-8
T162 (net34 net71 net71 0) nfet L=9.19E-6 W=0.18E-6
T163 (net66 0 0 0) nfet L=0.54E-6 W=7.78E-6
C164 (net85 net80) C=2.3E-9
T165 (net86 net79 net79 0) pfet L=2.05E-6 W=9.64E-6
T166 (net73 net90 net90 0) nfet L=2.39E-6 W=9.00E-6
R167 (net57 net60) R=8.1E3
R168 (net50 net123) R=5.3E2
T169 (net42 vdd! vdd! 0) pfet L=5.95E-6 W=1.36E-6
R170 (net92 net123) R=5.5E4
T171 (net25 net2 net2 0) nfet L=8.13E-6 W=4.91E-6
T172 (net92 net99 net99 0) nfet L=8.13E-6 W=1.23E-6
T173 (net33 vdd! vdd! 0) nfet L=2.98E-6 W=7.84E-6
T174 (net67 net70 net70 0) nfet L=2.67E-6 W=3.78E-6
C175 (net23 net75) C=7.8E-8
T176 (net121 0 0 0) nfet L=0.55E-6 W=7.10E-6
C177 (net72 net115) C=4.8E-6
T178 (net98 net26 net26 0) nfet L=8.29E-6 W=8.01E-6
C179 (net62 vdd!) C=8.9E-8
R180 (net99 net25) R=1.7E6
C181 (net35 net73) C=1.7E-13
C182 (net93 net124) C=1.6E-6
T183 (net88 net90 net90 0) pfet L=2.90E-6 W=4.42E-6
R184 (net29 net96) R=1.3E4
T185 (net56 net82 net82 0) nfet L=4.39E-6 W=1.43E-6
T186 (net122 net8 net8 0) pfet L=5.43E-6 W=7.01E-6
T187 (net103 net62 net62 0) pfet L=0.84E-6 W=2.03E-6
C188 (net97 vdd!) C=0.8E-12
R189 (net126 net100) R=6.9E2
T190 (net65 net113 net113 0) nfet L=1.59E-6 W=0.26E-6
T191 (net12 net95 net95 0) pfet L=3.15E-6 W=9.88E-6
R192 (net10 net3) R=8.8E3
R193 (net59 vdd!) R=7.2E2
R194 (vdd! net83) R=0.2E1
T195 (net28 net113 net113 0) nfet L=8.81E-6 W=5.43E-6
R196 (net100 net26) R=6.6E4
T197 (net27 vdd! vdd! 0) pfet L=1.57E-6 W=8.13E-6
T198 (vdd! net119 net119 0) pfet L=6.94E-6 W=4.96E-6
C199 (net53 net3) C=4.6E-11
R200 (net102 net19) R=3.1E3
R201 (net77 0) R=4.4E3
R202 (net57 net126) R=3.6E5
C203 (net118 net36) C=6.2E-10
T204 (net40 net38 net38 0) pfet L=0.85E-6 W=2.16E-6
T205 (vdd! net76 net76 0) pfet L=8.78E-6 W=4.43E-6
C206 (net56 net126) C=0.9E-6
T207 (net21 net84 net84 0) nfet L=4.18E-6 W=3.94E-6
C208 (net124 net12) C=7.4E-11
T209 (net83 net17 net17 0) nfet L=7.58E-6 W=4.63E-6
T210 (net6 net116 net116 0) pfet L=4.22E-6 W=2.58E-6
C211 (net84 net98) C=0.5E-5
R212 (net18 net50) R=3.6E1
T213 (net121 net106 net106 0) nfet L=1.01E-6 W=7.83E-6
R214 (net52 net101) R=6.7E2
C215 (0 net98) C=8.9E-7
R216 (net33 net125) R=1.9E6
T217 (net42 vdd! vdd! 0) nfet L=6.75E-6 W=8.25E-6
T218 (0 net47 net47 0) pfet L=1.54E-6 W=3.48E-6
C219 (net82 net9) C=6.6E-9
R220 (net3 0) R=1.5E2
C221 (net100 0) C=2.9E-14
R222 (0 net104) R=5.2E5
C223 (vdd! net97) C=1.8E-12
R224 (net89 vdd!) R=3.7E4
T225 (net90 net25 net25 0) pfet L=2.99E-6 W=7.96E-6
T226 (net72 net115 net115 0) nfet L=5.38E-6 W=1.35E-6
R227 (net68 net5) R=4.8E2
C228 (net116 net57) C=8.6E-7
T229 (net115 net99 net99 0) nfet L=8.94E-6 W=3.71E-6
T230 (net3 net10 net10 0) nfet L=3.68E-6 W=7.25E-6
R231 (net106 net70) R=2.5E5
T232 (net4 net110 net110 0) nfet L=3.78E-6 W=7.68E-6
T233 (net7 net18 net18 0) nfet L=8.61E-6 W=3.26E-6
T234 (net30 net111 net111 0) pfet L=7.61E-6 W=4.35E-6
C235 (net109 net24) C=9.6E-13
R236 (net99 0) R=5.1E0
T237 (net43 net34 net34 0) pfet L=4.99E-6 W=9.83E-6
R238 (net9 net15) R=5.1E4
T239 (0 net92 net92 0) pfet L=1.50E-6 W=5.51E-6
T240 (net39 net80 net80 0) nfet L=2.60E-6 W=1.62E-6
R241 (vdd! net29) R=0.8E0
R242 (net116 0) R=2.6E5
C243 (net23 net80) C=1.8E-11
C244 (net53 net57) C=1.7E-7
C245 (net128 net35) C=1.6E-7
T246 (vdd! net102 net102 0) pfet L=8.99E-6 W=5.39E-6
T247 (net93 net109 net109 0) nfet L=6.54E-6 W=5.23E-6
R248 (net36 net112) R=3.2E4
R249 (net49 net82) R=0.7E0
C250 (net126 net91) C=4.2E-9
R251 (vdd! net38) R=5.8E0
R252 (net2 net85) R=5.4E2
C253 (net36 net23) C=6.0E-10
T254 (net58 net54 net54 0) nfet L=5.22E-6 W=7.88E-6
T255 (net4 net70 net70 0) pfet L=5.76E-6 W=9.09E-6
T256 (net117 net84 net84 0) nfet L=3.76E-6 W=7.93E-6
T257 (net114 net57 net57 0) nfet L=8.19E-6 W=2.52E-6
T258 (net9 net17 net17 0) nfet L=3.32E-6 W=8.04E-6
R259 (net7 net60) R=6.8E6
R260 (net27 net98) R=8.7E1
T261 (net13 net2 net2 0) nfet L=0.95E-6 W=3.41E-6
R262 (net5 net37) R=6.5E0
T263 (net7 net87 net87 0) pfet L=8.52E-6 W=0.79E-6
R264 (net109 net12) R=8.7E1
R265 (net101 net29) R=8.6E2
T266 (net8 net56 net56 0) nfet L=9.29E-6 W=8.94E-6
T267 (net56 net41 net41 0) pfet L=4.21E-6 W=8.33E-6
C268 (net40 net106) C=7.7E-11
T269 (net97 net10 net10 0) pfet L=9.96E-6 W=8.50E-6
T270 (net36 net94 net94 0) pfet L=6.66E-6 W=8.30E-6
T271 (net41 0 0 0) pfet L=5.49E-6 W=3.04E-6
R272 (net46 net125) R=2.4E6
T273 (net31 net72 net72 0) pfet L=7.23E-6 W=3.25E-6
C274 (net68 net12) C=9.4E-11
R275 (net23 net1) R=7.9E3
T276 (net32 net115 net115 0) pfet L=0.46E-6 W=2.82E-6
T277 (net81 0 0 0) nfet L=4.71E-6 W=9.67E-6
R278 (net102 net65) R=7.4E4
C279 (net53 net127) C=7.9E-5
R280 (net120 vdd!) R=5.7E3
T281 (net56 net1 net1 0) nfet L=3.95E-6 W=3.61E-6
R282 (net102 net78) R=7.4E2
C283 (net103 vdd!) C=2.1E-5
R284 (net94 net63) R=7.4E4
T285 (net27 net56 net56 0) nfet L=8.90E-6 W=3.29E-6
T286 (net32 net55 net55 0) pfet L=9.76E-6 W=5.50E-6
T287 (net80 net8 net8 0) nfet L=1.90E-6 W=2.50E-6
C288 (net37 net31) C=2.8E-14
R289 (net105 net103) R=8.3E1
T290 (net121 net98 net98 0) pfet L=2.88E-6 W=1.24E-6
T291 (net37 net4 net4 0) nfet L=7.26E-6 W=0.82E-6
R292 (net82 net107) R=0.5E0
T293 (net44 net39 net39 0) pfet L=3.29E-6 W=0.15E-6
T294 (net106 net16 net16 0) nfet L=3.91E-6 W=1.00E-6
T295 (net69 0 0 0) nfet L=9.88E-6 W=0.55E-6
C296 (net123 net100) C=0.7E-5
T297 (net104 net127 net127 0) nfet L=5.67E-6 W=8.98E-6
T298 (net6 net119 net119 0) nfet L=3.12E-6 W=2.32E-6
T299 (net102 net82 net82 0) nfet L=2.06E-6 W=1.85E-6
R300 (net112 vdd!) R=3.5E3
T301 (net6 net1 net1 0) nfet L=0.71E-6 W=4.20E-6
R302 (net68 net95) R=9.3E2
C303 (net29 net120) C=5.0E-13
R304 (net15 net72) R=1.3E5
T305 (net123 net107 net107 0) pfet L=7.03E-6 W=4.38E-6
T306 (net76 0 0 0) pfet L=2.85E-6 W=4.62E-6
C307 (net52 net75) C=1.5E-5
T308 (net5 net61 net61 0) nfet L=3.64E-6 W=7.42E-6
R309 (net26 net103) R=7.1E6
R310 (net30 net106) R=5.0E1
C311 (vdd! net16) C=9.6E-11
T312 (net36 net72 net72 0) pfet L=6.72E-6 W=2.35E-6
R313 (net16 net21) R=2.8E2
T314 (net33 net101 net101 0) pfet L=7.22E-6 W=4.03E-6
T315 (net127 net1 net1 0) pfet L=1.82E-6 W=1.23E-6
C316 (net12 net16) C=0.1E-7
R317 (vdd! net78) R=1.8E2
T318 (net61 net100 net100 0) pfet L=7.40E-6 W=2.75E-6
T319 (net88 net70 net70 0) pfet L=1.09E-6 W=3.19E-6
R320 (net77 net79) R=7.7E1
T321 (net110 net45 net45 0) nfet L=9.80E-6 W=6.86E-6
T322 (net111 net116 net116 0) pfet L=8.99E-6 W=1.21E-6
C323 (vdd! net29) C=7.9E-6
C324 (net58 net105) C=0.7E-6
C325 (net70 net92) C=2.5E-10
C326 (net104 net71) C=2.4E-6
T327 (net32 net50 net50 0) pfet L=6.86E-6 W=0.11E-6
T328 (net19 net74 net74 0) nfet L=5.67E-6 W=9.14E-6
T329 (net97 net30 net30 0) nfet L=3.04E-6 W=9.90E-6
T330 (net114 net71 net71 0) pfet L=1.62E-6 W=0.17E-6
T331 (net125 net25 net25 0) nfet L=1.42E-6 W=2.69E-6
C332 (net5 net57) C=3.3E-8
T333 (net87 net48 net48 0) pfet L=6.05E-6 W=1.01E-6
R334 (net87 net106) R=7.3E4
C335 (net38 net56) C=7.2E-11
T336 (0 net46 net46 0) pfet L=7.89E-6 W=8.22E-6
R337 (net75 net71) R=7.6E6
T338 (0 net89 net89 0) nfet L=3.50E-6 W=9.76E-6
T339 (vdd! net93 net93 0) pfet L=5.25E-6 W=2.24E-6
R340 (net60 net98) R=1.1E1
R341 (net121 net82) R=8.6E2
R342 (net114 net61) R=3.0E4
C343 (net116 net48) C=1.2E-5
R344 (net59 net71) R=10.0E2
R345 (net34 net64) R=8.5E5
R346 (vdd! net124) R=4.2E5
R347 (0 net99) R=7.9E0
C348 (net98 vdd!) C=5.1E-10
T349 (net47 net40 net40 0) nfet L=6.79E-6 W=6.30E-6
T350 (net37 net90 net90 0) nfet L=9.65E-6 W=6.12E-6
C351 (net116 net20) C=1.8E-12
C352 (net70 net52) C=5.3E-6
C353 (net124 net77) C=0.2E-10
C354 (net11 net117) C=7.1E-9

